US04675186
Methyl 2-(2-Furyl)-2-oxoethyl Sulfoxide
DMSO (35 ml., dry, distilled from CaH2) and NaH (3.08 g., 0.076 mol as a 60% suspension in oil) was heated under nitrogen until evolution of H2 was complete, cooled to 0° C., and diluted with 35 ml. THF. Methyl furan-2-carboxylate (5 ml., 5.89 g., 0.047 mol) was added, the mixture warmed to ambient temperature, stirred 2 hours, poured into an equal volume of water, and extracted with one half volume of ether. The aqueous layer was adjusted to pH3 with 6N HCl and extracted 3×150 ml. CHCl3. The CHCl3 extracts were combined, dried and evaporated to an oil which crystallized on standing in vacuum. The latter was slurried in minimal 1:1 CHCl3 :hexane and recovered by filtration, 2.84 g.; tlc Rf 0.7 (3:1 ethyl acetate: methanol); 1H-nmr 2.75 (s, 3H), 4.21 (ABq, 2H), 6.58 (dd, 1H), 7.32 (d, 1H), 7.62 (d, 1H).

reactant | DMSO | 35 ml | CS(=O)C | C2H6OS
reactant | NaH | [H-].[Na+]
reactant | THF | C1CCOC1 | C4H8O
reactant | Methyl furan-2-carboxylate | 0.047 mol, 5 ml, 5.89 g | O1C(=CC=C1)C(=O)OC | C6H6O3
solvent | water | O | H2O
product | Methyl 2-(2-Furyl)-2-oxoethyl Sulfoxide | O1C(=CC=C1)C(CS(=O)C)=O | C7H8O3S
